US04438128
1-(4-Hydroxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol
5.0 g. 1-(4-Benzyloxyphenoxy) 3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol are hydrogenated in the presence of 0.5 g. palladium-charcoal (10%) in 100 ml. methanol. After filtering off the catalyst with suction, the filtrate is evaporated and the residue is triturated with ethanol. It is then dissolved in hot dimethylformamide, treated with active charcoal, mixed with double the amount of water, filtered off with suction and washed with water and then with ethanol. There are obtained 3.0 g. (76% of theory) of the desired product in the form of pale, pinkish crystals; m.p. 216°-218° C.

reactant | 1-(4-Benzyloxyphenoxy) 3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(OCC(CNCCNC2=C3C=NNC3=CC=C2)O)C=C1 | C25H28N4O3
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-(4-Hydroxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol | OC1=CC=C(OCC(CNCCNC2=C3C=NNC3=CC=C2)O)C=C1 | C18H22N4O3
